US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-ethyl-2-methoxy-5-chloro Benzamide, Hydrochloride
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 4-ethyl-2-methoxy-5-chlorobenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 4-ethyl-2-methoxy-5-chlorobenzoic acid | C(C)C1=CC(=C(C(=O)O)C=C1Cl)OC | C10H11ClO3
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-ethyl-2-methoxy-5-chloro Benzamide, Hydrochloride | Cl.CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Cl)CC)OC)=O | InChI=1S/C20H23ClN2O2.ClH/c1-4-13-10-19(25-3)16(11-17(13)21)20(24)22-18-7-5-6-14-12-23(2)9-8-15(14)18;/h5-7,10-11H,4,8-9,12H2,1-3H3,(H,22,24);1H
